* C:\WORKS_2\WS\WS_Others.JVEMV6\JVEMV6\37_miscs\24_UFO-science\others\37#24.5_2.(2d).(1-cap,R2-100k,1-LED).asc
V1 N001 0 5v
R1 N001 0 10k
R2 N001 N002 100k
C1 N003 0 100µ
D1 N002 N003 D
.model D D
.lib C:\Users\iwabuchiken\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 20
.backanno
.end
