* C:\WORKS_2\WS\WS_Others.JVEMV6\JVEMV6\37_miscs\25_electronics\1_LTSpice\25.1_11.(1).asc
V2 +V 0 15V
V3 0 -V 15V
V1 INPUT 0 SINE(0 0.05 1k) AC 1V
R2 N001 0 10k
R3 N002 INPUT 10k
R1 Output N001 100k
R4 Output 0 {RX}
XU1 N002 N001 +V -V Output LT1028
C1 Output N001 10p
.step param RX list 16 32 48 64
.tran 10m
.lib LTC.lib
.backanno
.end
