* C:\WORKS_2\WS\WS_Others.JVEMV6\JVEMV6\37_miscs\25_electronics\1_LTSpice\25.1_10.(2)_vol=sine_LOAD=2k.asc
V2 +V 0 15V
V3 0 -V 15V
V1 N003 0 SINE(0 0.5 1k) AC 1V
R2 N001 N003 10k
R3 N002 0 10k
R1 Output N001 100k
XU1 N002 N001 +V -V Output OPA1622
R4 Output 0 2k
;tran 4m
.ac oct 20 1 100meg
.lib mylib\OPA1622.LIB
.backanno
.end
