* C:\WORKS_2\WS\WS_Others.JVEMV6\JVEMV6\37_miscs\25_electronics\1_LTSpice\3_\25.1_3.(2).asc
C1 Out 0 0.1µ
R1 Out N001 1.6k
V1 N001 0 AC 1V
.ac oct 20 10 0.1Meg
.backanno
.end
