* C:\WORKS_2\WS\WS_Others.JVEMV6\JVEMV6\37_miscs\25_electronics\1_LTSpice\7_\25.1_7.(2)_non-inverting.asc
XU1 N002 N001 +V -V Output level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 +V 0 15V
V3 0 -V 15V
V1 INPUT 0 AC 1V Rser=100
R2 N001 0 1k
R3 N002 INPUT 1k
R1 Output N001 10k
.ac oct 20 0.1 100meg
.lib UniversalOpamps2.sub
.backanno
.end
